US08471005B2
N-[2-(2-{4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide
Into a 8-dram vial, 2-[4-(4-Amino-phenyl)-piperazin-1-yl]-ethanol (0.134 g, 0.604 mmol), N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (0.100 g, 0.274 mmol), Cesium fluoride (0.104 g, 0.686 mmol), N,N-Diisopropylethylamine (0.1051 mL, 0.6036 mmol) and tert-Butyl alcohol (1.50 mL) were added. The reaction was heated at 120° C. overnight. LCMS suggested presence of desired product. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give N-[2-(2-{4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide as a yellow solid (48 mg, 34%). LCMS (E/I+) 522.16 (M+H). NMR 1H (DMSO-d6)-9.15 (bs, 1H), 9.24 (s, 1H), 8.94 (s, 1H), 8.02 (d, 1H, J=7.91 Hz), 7.66 (d, 1H, J=7.34 Hz), 7.47-7.62 (m, 4H), 6.98 (d, 1H, J=4.52 Hz), 6.93 (d, 1H, J=4.52), 6.87 (d, 1H, J=8.47 Hz), 3.77 (bs, 2H), 3.70 (d, 2H, J=12.98 Hz), 3.58 (d, 2H, J=12.86 Hz), 3.13-3.30 (m, 2H), 3.08 (s, 1H), 2.97 (t, 2H, J=12.42 Hz), 2.89 (s, 3H).

reactant | 2-[4-(4-Amino-phenyl)-piperazin-1-yl]-ethanol | 0.604 mmol, 0.134 g | NC1=CC=C(C=C1)N1CCN(CC1)CCO | C12H19N3O
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.274 mmol, 0.100 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
reactant | Cesium fluoride | 0.686 mmol, 0.104 g | [F-].[Cs+]
reactant | N,N-Diisopropylethylamine | 0.6036 mmol, 0.1051 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-Butyl alcohol | 1.50 mL | C(C)(C)(C)O | C4H10O
product | N-[2-(2-{4-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | OCCN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H31N7O3S
